US08048878B2
Synthesis of (E)-(3S,8aS)-3-(2,6-difluoropyridin-3-yl)-6-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]hexahydroindolizin-5-one
Lithium hydroxide (0.106 g) was added to a mixed solution of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (0.24 g) and diethyl [(3S,8aR)-3-(2,6-difluoropyridin-3-yl)-5-oxooctahydroindolizin-6-yl]phosphonate (1.0 g) in tetrahydrofuran (4 mL)-ethanol (16 mL), and the reaction solution was stirred under shading at room temperature for 12 hours. The reaction solution was poured into ice water, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 0.42 g of the title compound as a colorless solid. The property values of the compound are as follows.

reactant | Lithium hydroxide | 0.106 g | [OH-].[Li+]
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 0.24 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | diethyl [(3S,8aR)-3-(2,6-difluoropyridin-3-yl)-5-oxooctahydroindolizin-6-yl]phosphonate | 1.0 g | FC1=NC(=CC=C1[C@@H]1CC[C@@H]2CCC(C(N12)=O)P(OCC)(OCC)=O)F | C17H23F2N2O4P
reactant | ethanol | 16 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (E)-(3S,8aS)-3-(2,6-difluoropyridin-3-yl)-6-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]hexahydroindolizin-5-one | 0.42 g | FC1=NC(=CC=C1[C@@H]1CC[C@@H]2CC\C(\C(N12)=O)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)F | C25H24F2N4O2
